US04282031
2,4-Dimethyl-4-phenyl-3-thiosemicarbazide
To a solution of N-methyl-N-phenylthiocarbamyl chloride (79.6 g, 0.43 mole) in 250 ml dry ether, a solution of 39.5 g (0.86 mole) methylhydrazine in 100 ml of dry ether was added dropwise with stirring below 10° C. The reaction temperature was allowed to increase to room temperature and the mixture was filtered. The filtrate was evaporated to low volume and diluted with about 300 ml hexane. After stirring for a few hours the hexane layer was decanted. The hexane immiscible layer was reevaporated to remove organic solvents, giving the desired product, (70.0 g) as a thick orange liquid.

reactant | N-methyl-N-phenylthiocarbamyl chloride | 0.43 mole, 79.6 g | CN(C(=S)Cl)C1=CC=CC=C1 | C8H8ClNS
reactant | methylhydrazine | 0.86 mole, 39.5 g | CNN | CH6N2
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,4-Dimethyl-4-phenyl-3-thiosemicarbazide | 70.0 g | CN(N)C(=S)N(C1=CC=CC=C1)C | C9H13N3S
